US05977178
(E)-5-tert-Butoxycarbonylamino-3,5-dimethylhex-2-enoic acid ethylester (1.95 g; 6.83 mmol) was dissolved in 1,4-dioxane (25 mL) and water (15 mL). Lithium hydroxide (0.18 g; 7.52 mmol) was added and the reaction mixture was stirred for 12 hours at room temperature. Water (150 mL) and tert-butyl methyl ether (150 mL) was added. The aqueous phase was diluted with an aqueous solution of sodium hydrogensulfate (10%) until pH 2,5 and extracted with tert-butyl methylether (3×100 mL). The combined organic phases were dried (magnesium sulfate) and evaporated in vacuo. The residue was recrystallized from heptane (20 mL) to afford 0.6 g of (2E)-5-tert-Butoxycarbonylamino-3,5-dimethylhex-2-enoic acid.

reactant | (E)-5-tert-Butoxycarbonylamino-3,5-dimethylhex-2-enoic acid ethylester | 6.83 mmol, 1.95 g | C(C)OC(\C=C(\CC(C)(C)NC(=O)OC(C)(C)C)/C)=O | C15H27NO4
reactant | Lithium hydroxide | 7.52 mmol, 0.18 g | [OH-].[Li+]
reactant | tert-butyl methyl ether | 150 mL | COC(C)(C)C | C5H12O
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | sodium hydrogensulfate | S(=O)(=O)(O)[O-].[Na+]
solvent | Water | 150 mL | O | H2O
product | (2E)-5-tert-Butoxycarbonylamino-3,5-dimethylhex-2-enoic acid | 0.6 g | C(C)(C)(C)OC(=O)NC(C/C(=C/C(=O)O)/C)(C)C | C13H23NO4
